US07501430B2
Preparation of 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-benzamide
To a solution of N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyano-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine (0.50 g, 0.87 mmol) in dichloromethane (DCM) (10 mL) at −78° C. was added a solution of borane tribromide (BBr3) (1.74 mL, 1.0 M in DCM). The mixture was stirred at −78° C. for 0.5 hour, then room temperature for one hour. The mixture was then cooled to −78° C. and methanol (1 mL) was added. The resulting mixture was stirred at room temperature overnight. Solvent was removed in vaco, the residue was treated with a 1:1 mixture of dichloromethane and water (50 mL). Organic layer was separated, dried over sodium sulfate and concentrated. Product was purified by flash chromatography on silica gel eluting with 5% methanol in dichloromethane to afford 0.019 g (4%) of the title compound as a yellow solid. M.p.=168-170° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.70 (br. s, 1H), 8.10 (s, 1H), 8.10 (d, J=4.8 Hz, 1H), 7.94 (d, J=7.6 Hz, 1H), 7.94-7.80 (m, 1 H), 7.77-7.65 (m, 4H), 7.53 (t, J=8.0 Hz, 1H), 7.42 (d, J=4.4 Hz, 1H), 7.25-7.13 (m, 2H), 7.15 (d, J=7.2 Hz, 1H), 6.34 (d, J=5.6 Hz, 1H), 3.92 (bs, 1H), 3.73 (d, J=8.4 Hz, 1H), 3.48 (d, J=11.2 Hz, 1H), 2.48-2.43 (m, 1H), 2.35 (t, J=10.8 Hz, 1H), 1.90-1.82 (m, 2H), 1.59-1.56 (m, 1H), 1.39-1.34 (m, 1H). LCMS: 595 [M+H].

reactant | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-cyano-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 0.87 mmol, 0.50 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)C#N | C27H22ClN7O2S2
reactant | borane tribromide | 1.0 M, 1.74 mL | [Br-].[Br-].[Br-].B
reactant | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-benzamide | 0.019 g, 4% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C(=O)N)C=CC2 | C27H24ClN7O3S2
